US07776864B2
Step 1: 2-Amino-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidine-5,7-diol
A solution of 9.0 g 3,5-diamino-1,2,4-triazole and 22.4 ml diethyl phenylmalonate in N,N-dibutylbutan-1-amine is heated under microwave irradiation to 180° C. for 8 h. The reaction mixture forms two layers after cooling to room temperature. The top layer is removed and the solvent of the lower layer is evaporated. The residue is treated with water and acidified with 5N HCl. The precipitated product is collected by filtration and dried. The crude product is used without further purification.

reactant | 3,5-diamino-1,2,4-triazole | 9.0 g | NC1=NNC(=N1)N | C2H5N5
reactant | diethyl phenylmalonate | 22.4 ml | C1(=CC=CC=C1)C(C(=O)OCC)C(=O)OCC | C13H16O4
solvent | N,N-dibutylbutan-1-amine | C(CCC)N(CCCC)CCCC | C12H27N
product | 2-Amino-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidine-5,7-diol | NC1=NN2C(N=C(C(=C2O)C2=CC=CC=C2)O)=N1 | C11H9N5O2
